US09079880B2
Cool a solution of 3-aminobenzonitrile (0.35 g, 2.96 mmol) in pyridine (6 mL), to 0° C., and add 3-carboxymethoxy-benzoic acid methyl ester (0.75 g, 3.57 mmol) followed by phosphorous oxychloride (0.34 mL, 3.6 mmol). Warm the mixture to room temperature and stir for 15 hours. Dilute the mixture with water causing a material to oil out of solution. Add MeOH and stir the mixture vigorously causing a solid to slowly form. Collect the solid by filtration, wash with water and dry on the filter pad to provide 0.940 g of 3-[(3-cyano-phenylcarbamoyl)-methoxy]-benzoic acid methyl ester.

reactant | 3-aminobenzonitrile | 2.96 mmol, 0.35 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | 3-carboxymethoxy-benzoic acid methyl ester | 3.57 mmol, 0.75 g | COC(C1=CC(=CC=C1)OCC(=O)O)=O | C10H10O5
reactant | phosphorous oxychloride | 3.6 mmol, 0.34 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | MeOH | CO | CH4O
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-[(3-cyano-phenylcarbamoyl)-methoxy]-benzoic acid methyl ester | 0.940 g | COC(C1=CC(=CC=C1)OCC(NC1=CC(=CC=C1)C#N)=O)=O | C17H14N2O4
